US04940710
A 4.7 g portion of 2-dimethylaminomethyl-1,4-bis(phenylmethyl)piperazine was dissolved in a mixture of 50 ml of ethanol, 20 ml of cyclohexane and 10 ml of glacial acetic acid. A 2.0 g portion of 10% palladium on carbon was added, the mixture was refluxed overnight and then filtered. The filtrate was evaporated, 5 ml of saturated aqueous potassium bicarbonate was added to the residue and this was extracted several times with dichloromethane. The extracts were combined, dried, filtered and evaporated, giving a gum which solidified on standing, giving 1.02 g of N,N-dimethyl-2-piperazinemethanamine.

reactant | 2-dimethylaminomethyl-1,4-bis(phenylmethyl)piperazine | CN(C)CC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H29N3
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | cyclohexane | 20 ml | C1CCCCC1 | C6H12
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | [Pd] | Pd
product | N,N-dimethyl-2-piperazinemethanamine | 1.02 g | CN(CC1NCCNC1)C | C7H17N3
